US07034039B2
A solution of 4-fluorophthalic anhydride (24.99 g, 150 mmol) and ethyl 2-(isobutylamino)acetate (23.88 g, 150 mmol) in tetrahydrofuran (200 mL) was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (200 mL), and potassium carbonate (20.73 g, 150 mmol) and ethyl iodide (14.4 mL, 180 mmol) were added thereto. The mixture was stirred at room temperature for 3 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethanol (300 mL) and a solution of 20% sodium ethoxide ethanol solution (102 g, 300 mmol) was added thereto. The mixture was stirred at room temperature for 1 h. The reaction mixture was poured into 1N hydrochloric acid (300 mL) and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography and the component eluted earlier was concentrated to give ethyl 7-fluoro-4-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (19.2 g, 41.7%) as crystals.

reactant | 4-fluorophthalic anhydride | 150 mmol, 24.99 g | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
reactant | ethyl 2-(isobutylamino)acetate | 150 mmol, 23.88 g | C(C(C)C)NCC(=O)OCC | C8H17NO2
reactant | potassium carbonate | 150 mmol, 20.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 180 mmol, 14.4 mL | C(C)I | C2H5I
reactant | sodium ethoxide ethanol | 300 mmol, 102 g | C(C)O.[O-]CC.[Na+]
reactant | hydrochloric acid | 1N, 300 mL | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 7-fluoro-4-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 19.2 g, 41.7% | FC1=CC=C2C(=C(N(C(C2=C1)=O)CC(C)C)C(=O)OCC)O | C16H18FNO4
